US04490374
2-Amino-5,6-dimethoxybenzaldehyde ethyleneketal
A solution of 2,3-dimethoxy-6-nitrobenzaldehyde-ethyleneketal (12.1 g, 62.7 mM) in ethyl acetate (350 ml) containing sodium acetate (0.5 g) is treated with platinum oxide (1.0 g) and the mixture hydrogenated for 24 hours at ~50 psi. The solvent is removed in vacuo after filtering off the catalyst to give a pale brown oil. After crystallization from n-hexane, the product is obtained as a tan solid; yield 12.8 g (85.1%); m.p. 78°-80° C.

reactant | 2,3-dimethoxy-6-nitrobenzaldehyde-ethyleneketal | 62.7 mM, 12.1 g | C1COC(C2=C(C(=CC=C2[N+](=O)[O-])OC)OC)O1 | C11H13NO6
reactant | sodium acetate | 0.5 g | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 2-Amino-5,6-dimethoxybenzaldehyde ethyleneketal | C1COC(C2=C(C=CC(=C2OC)OC)N)O1 | C11H15NO4
